US07435815B2
N-Ethyl-2-[(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-N-(6-methyl-pyridin-2-ylmethyl)-acetamide
prepared by reaction of [(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetic acid with ethyl-(6-methyl-pyridin-2-ylmethyl)-amine

reactant | [(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetic acid | COC1=CC=C(C=N1)N(S(=O)(=O)C=1C(=CC=CC1)C)CC(=O)O | C15H16N2O5S
reactant | ethyl-(6-methyl-pyridin-2-ylmethyl)-amine | C(C)NCC1=NC(=CC=C1)C | C9H14N2
product | N-Ethyl-2-[(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-N-(6-methyl-pyridin-2-ylmethyl)-acetamide | C(C)N(C(CN(S(=O)(=O)C=1C(=CC=CC1)C)C=1C=NC(=CC1)OC)=O)CC1=NC(=CC=C1)C | C24H28N4O4S
